US07981903B2
Using General Protocol II and starting with 2,4-dichloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidine (3.0 g, 8.8 mmol) and 2-amino-4,5-difluorobenzamide (4.15 g, 23.9 mmol), 2-({2-chloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-4,5-difluorobenzamide was isolated as a white solid (1.80 g, 43% Yield); 1H NMR (400 MHz, DMSO-d6) δ ppm 2.34 (s, 3H), 6.67 (d, J=4.03 Hz, 1 H), 7.46 (d, J=8.61 Hz, 2 H), 7.76 (d, J=4.03 Hz, 1 H), 7.92-8.01 (m, 4 H), 8.35 9s, 1 H), 8.55 (dd, J=13.55, 7.69 Hz, 1 H), 12.50 (s, 1 H).

reactant | 2,4-dichloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidine | 8.8 mmol, 3.0 g | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)Cl | C13H9Cl2N3O2S
reactant | 2-amino-4,5-difluorobenzamide | 23.9 mmol, 4.15 g | NC1=C(C(=O)N)C=C(C(=C1)F)F | C7H6F2N2O
product | 2-({2-chloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-4,5-difluorobenzamide | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC2=C(C(=O)N)C=C(C(=C2)F)F | C20H14ClF2N5O3S
